### PR TITLE
Add Erdős Problem 767 (cycles with many chords at a vertex), link the formal proof

### LINKED ISSUE #6396: Erdős Problem 767
### What is the Erdős problem?

https://www.erdosproblems.com/767

Let $g_k(n)$ be the maximal number of edges possible on a graph with $n$ vertices which does not contain a cycle with $k$ chords incident to a vertex on the cycle. Is it true that $g_k(n)=(k+1)n-(k+1)^2$ for $n$ sufficiently large?

Status: proved (Jiang [Ji04], for $n\geq 3k+3$). A formal proof exists in plby/lean-proofs (`Erdos767.erdos_767`, Codex and GPT-5.6 Sol).

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-05

### Choose either option
- [x] I plan on adding this Erdős problem to the repository
- [ ] This issue is up for grabs: I would like to see this Erdős problem added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #6396.

### What changed
Adds `FormalConjectures/ErdosProblems/767.lean` with `HasCycleWithIncidentChords G k` (a cycle with `k` chords at one vertex, via Mathlib's `Walk.IsChord`) and `g k n`:
- `erdos_767` (`research solved`, `answer(True)`): `g_k(n) = (k+1)n - (k+1)²` for `n ≥ 3k + 3` (Jiang [Ji04]). Linked to plby/lean-proofs `Erdos767.erdos_767` (Codex and GPT-5.6 Sol; 27 Mathlib-only files).
- Sorry'd variants: Czipszer's `g_k(n) ≤ (k+1)n` and Pósa's `g_1(n) = 2n - 4`.

### How checked
- Rebuilt plby's closure against this repo's Mathlib: `#print axioms Erdos767.erdos_767` → `[propext, Classical.choice, Quot.sound]`.
- Bridge compiled against the new statement on top of a renamed copy, same axioms (`sSup` vs plby's `Finset.sup`):

<details>
<summary>Bridge</summary>

```lean
open SimpleGraph Finset

namespace Bridge767

lemma has_iff {V : Type} (G : SimpleGraph V) (k : ℕ) :
    Erdos767.HasCycleWithIncidentChords G k ↔ Erdos767Plby.HasCycleWithKIncidentChords k G :=
  Iff.rfl

lemma g_eq (k n : ℕ) : Erdos767.g k n = Erdos767Plby.chordCycleExtremalNumber k n := by
  classical
  unfold Erdos767.g Erdos767Plby.chordCycleExtremalNumber Erdos767Plby.AvoidsCycleWithKIncidentChords
  apply le_antisymm
  · refine csSup_le ⟨_, ⊥, Erdos767Plby.bot_avoids k, rfl⟩ ?_
    rintro m ⟨G, hG, rfl⟩
    apply Finset.le_sup (f := fun G : SimpleGraph (Fin n) => G.edgeFinset.card)
    simp only [Finset.mem_filter, Finset.mem_univ, true_and]
    exact hG
  · refine Finset.sup_le fun G hG => ?_
    simp only [Finset.mem_filter, Finset.mem_univ, true_and] at hG
    refine le_csSup ⟨n.choose 2, ?_⟩ ⟨G, hG, by congr 1⟩
    rintro m ⟨G', -, rfl⟩
    exact card_edgeFinset_le_card_choose_two.trans (by simp)

theorem erdos_767_bridge : type_of% Erdos767.erdos_767 := by
  show True ↔ _
  simp only [true_iff, g_eq]
  intro k hk n hn
  exact Erdos767Plby.erdos_767 k n hk hn

#print axioms Erdos767Plby.erdos_767
#print axioms erdos_767_bridge

end Bridge767
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«767»` passes.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/767.lean [hunk 1]
```diff
@@ -0,0 +1,77 @@
+/-
+Copyright 2025 The Formal Conjectures Authors.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/767.lean]:
```suggestion
Copyright 2026 The Formal Conjectures Authors.
```

**Review by mo271 — APPROVED** [review]
Thanks, LGTM
